US05559113
2-{[2-(1H-Imidazol-4-yl)ethyl]amino}-3,6-dimethylpyrazine
1 g (8.9 mmol) of histamine and 1.28 g (8.9 mmol) of 2-chloro-3,6-dimethylpyrazine in 10 ml of 2-propanol are brought to reflux for 3 days, evaporated and the residue is chromatographed on a column of silica gel, using mixtures of chloroform and methanol (1, 10 and 20% respectively) to give the title compound in the form of an oil. The latter is converted to a monohydrated dioxalate salt which is crystallized from an isopropanol/ether (1/1) mixture. M.p.: 164°-165° C.

reactant | histamine | 8.9 mmol, 1 g | NCCC1=CNC=N1 | C5H9N3
reactant | 2-chloro-3,6-dimethylpyrazine | 8.9 mmol, 1.28 g | ClC1=NC(=CN=C1C)C | C6H7ClN2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 2-{[2-(1H-Imidazol-4-yl)ethyl]amino}-3,6-dimethylpyrazine | N1C=NC(=C1)CCNC1=NC(=CN=C1C)C | C11H15N5
